US04073770
Following the above procedures, 25 grams of 2-methyl-2,4-dihexyl decahydroquinoline in 50 milliliters of 1-octanol was reacted with ethylene oxide at 200° C. for 8 hours to yield 1-(2'-hydroxyethyl)-2-methyl-2,4-dihexyl decahydroquinoline which had a boiling point at 192° C. at 0.7 mm Hg. The products NMR and infrared spectra were consistent with the desired product.

reactant | 2-methyl-2,4-dihexyl decahydroquinoline | 25 grams | CC1(NC2CCCCC2C(C1)CCCCCC)CCCCCC | C22H43N
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | 1-octanol | 50 milliliters | C(CCCCCCC)O | C8H18O
product | 1-(2'-hydroxyethyl)-2-methyl-2,4-dihexyl decahydroquinoline | OCCN1C(CC(C2CCCCC12)CCCCCC)(CCCCCC)C | C24H47NO
